US07579488B2
D. 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carboxylic acid ethyl ester.
5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzofuran-2-carboxylic acid ethyl ester (7.10 g, 19.4 mmol) and 1-bromopinacolone (4.17 g, 23.3 mmol) and K2CO3 (5.35 g, 38.8 mmol) are reacted analogous to Example 1E to give the title compound as a pale yellow oil (7.60 g, 84%).

reactant | 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzofuran-2-carboxylic acid ethyl ester | 19.4 mmol, 7.10 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC | C23H26O4
reactant | 1-bromopinacolone | 23.3 mmol, 4.17 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 38.8 mmol, 5.35 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carboxylic acid ethyl ester | 7.60 g, 84% | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C | C29H36O5
